US09303033B2
Synthesis of 5-(5-chloro-2-fluorophenylamino)-7-(2-morpholinopropylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde
In a reaction flask, N5-(5-chloro-2-fluorophenyl)-N7-(2-morpholinopropyl)pyrazolo[1,5-a]pyrimidine-5,7-diamine (84 mg, 0.21 mmol) was dissolved in DMF (0.9 mL) then phosphorous oxychloride (58 uL, 0.62 mmol) was added slowly at room temperature. The reaction mixture was allowed to stir at room temperature for 2 days then quenched by addition to 6N NaOH solution. The pH of the mixture was adjusted with 6N HCl to pH=7-9. The solid was recovered by filtration and washed with water. The product, 5-(5-chloro-2-fluorophenylamino)-7-(2-morpholinopropylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde, was purified by preparative TLC (5% acetone/dichloromethane) to yield 37 mg of the desired product (41% yield). LCMS (M+1=433)

reactant | N5-(5-chloro-2-fluorophenyl)-N7-(2-morpholinopropyl)pyrazolo[1,5-a]pyrimidine-5,7-diamine | 0.21 mmol, 84 mg | ClC=1C=CC(=C(C1)NC1=NC=2N(C(=C1)NCC(C)N1CCOCC1)N=CC2)F | C19H22ClFN6O
reactant | phosphorous oxychloride | 0.62 mmol, 58 uL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 0.9 mL | CN(C)C=O | C3H7NO
product | 5-(5-chloro-2-fluorophenylamino)-7-(2-morpholinopropylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde | 37 mg, 41% yield | ClC=1C=CC(=C(C1)NC1=NC=2N(C(=C1)NCC(C)N1CCOCC1)N=CC2C=O)F | C20H22ClFN6O2
